US05858171
2. Preparation of DMG/DETA/Epichlorohydrin Acidic Resin
To prepare the resin, the first portion of water is charged to a clean, dry, glass-lined reactor and the DMG-DETA base prepared as described above is added. The epichlorohydrin is added. The reaction solution is heated to 115°-120° F. Once the batch has reached between Gardner-Holdt "A" and "J", and preferably at "F", the second water and sulfuric acid are added. The preservative is then added. The pH is adjusted to 4.5±0.5 with DETA or sulfuric acid.

reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | DETA | CCN(CC)C(=O)C1=CC(=CC=C1)C | C12H17NO
solvent | water | O | H2O
product | DETA Epichlorohydrin | CCN(CC)C(=O)C1=CC(=CC=C1)C.C(Cl)C1CO1 | InChI=1S/C12H17NO.C3H5ClO/c1-4-13(5-2)12(14)11-8-6-7-10(3)9-11;4-1-3-2-5-3/h6-9H,4-5H2,1-3H3;3H,1-2H2
